US07560558B2
Compound 83: Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-fluorobenzoate
Ethyl 5-fluorosalicylate (191 mg), 4-chloro-6,7-dimethoxyquinoline (125 mg), and 4-dimethylaminopyridine (205 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 120° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (64 mg, yield 22%).

reactant | Ethyl 5-fluorosalicylate | 191 mg | FC1=CC=C(C(C(=O)OCC)=C1)O | C9H9FO3
reactant | 4-chloro-6,7-dimethoxyquinoline | 125 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 205 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-fluorobenzoate | 64 mg, yield 22% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=O)OCC)C=C(C=C1)F | C20H18FNO5
